US06489322B1
e) N-(2,3,4,5-Tetrahydro-1,4-benzoxazepin-7-yl)-3-thiophenecarboximidamide
2,3,4,5-Tetrahydro-1,4-benzoxazepin-7-ylamine hydrochloride (1.84 g, 8.4 mmol) was dissolved in 95% ethanol (40 ml) and 3-thiophenecarboximidothioic acid, methyl ester, hydroiodide (2.85 g, 10 mmol) was added. The mixture was stirred at room temperature for 2 days and then heated at 60° C. overnight and cooled. The solid (1.02 g) was collected. The filtrate was evaporated and the residue treated with ethyl acetate. The resulting crystals were collected and combined with the solid obtained previously. They were dissolved in water (20 ml), basified with conc. ammonium hydroxide, and extracted with methylene chloride (3×30 ml). The organic extracts were washed with water, dried over magnesium sulfate, and concentrated to give a solid (0.508 g), m.p. 150-152° C.

reactant | 2,3,4,5-Tetrahydro-1,4-benzoxazepin-7-ylamine hydrochloride | 8.4 mmol, 1.84 g | Cl.O1CCNCC2=C1C=CC(=C2)N
reactant | 3-thiophenecarboximidothioic acid, methyl ester, hydroiodide | 10 mmol, 2.85 g | I.S1C=C(C=C1)C(=N)SC
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | N-(2,3,4,5-Tetrahydro-1,4-benzoxazepin-7-yl)-3-thiophenecarboximidamide | 0.508 g | O1CCNCC2=C1C=CC(=C2)NC(=N)C2=CSC=C2 | C14H15N3OS
